US06090802
In dimethylformamide (5 ml), (3S)-3-[N-methyl-N-(4-nitrobenzyloxycarbonyl)amino]pyrrolidine trifluoroacetate (400.9 mg) was dissolved. To the solution, N,N-diisopropylethylamine (0.444 ml) and a solution of (2S,4S)-2-(2-carboxy-1-hydroxyethyl)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (0.5 g) in dimethylformamide (5 ml), were added at room temperature. To the resulting mixture, 1-hydroxybenzotriazole (151.5 mg), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (273.5 mg) and water (1 ml) were added successively and the mixture was stirred overnight at the same temperature. The reaction mixture was concentrated by evaporation under reduced pressure. Ethyl acetate was then added to the residue. The resulting mixture was washed with water and saturated saline, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was purified by chromatography through a silica gel column (ethyl acetate methanol=50:1), whereby (2S,4S)-2-[1-hydroxy-2-[(3S)-3-[N-methyl-N-(4-nitrobenzyloxycarbonyl)amino]pyrrolidin-1-ylcarbonyl]ethyl]-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (523.5 mg) was obtained

reactant | (3S)-3-[N-methyl-N-(4-nitrobenzyloxycarbonyl)amino]pyrrolidine trifluoroacetate | 400.9 mg | FC(C(=O)O)(F)F.CN(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@@H]1CNCC1
reactant | N,N-diisopropylethylamine | 0.444 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2S,4S)-2-(2-carboxy-1-hydroxyethyl)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 0.5 g | C(=O)(O)CC(O)[C@H]1N(C[C@H](C1)SCC1=CC=C(C=C1)OC)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C23H26N2O8S
reactant | 1-hydroxybenzotriazole | 151.5 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 273.5 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 1 ml | O | H2O
product | (2S,4S)-2-[1-hydroxy-2-[(3S)-3-[N-methyl-N-(4-nitrobenzyloxycarbonyl)amino]pyrrolidin-1-ylcarbonyl]ethyl]-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 523.5 mg | OC(CC(=O)N1C[C@H](CC1)N(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)[C@H]1N(C[C@H](C1)SCC1=CC=C(C=C1)OC)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C36H41N5O11S
